US07598285B2
2-Bromo-6-(trifluoromethyl)-naphthalene (50 mg, 0.182 mmol), bis(pinacolato)diboron (92 mg, 0.362 mmol), and potassium acetate (53 mg, 0.540 mmol) were suspended in 2.5 mL of methyl sulfoxide. The mixture was de-oxygenated by four vacuum-nitrogen fill cycles, and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (3.7 mg, 0.0045 mmol) added, and the resultant mixture heated at 80° C. under a nitrogen atmosphere for 1 h. The mixture was cooled, diluted with ethyl acetate, and washed successively with two portions of water and one portion of brine. The organic layer was dried over magnesium sulfate, concentrated in vacuo, and the residue suspended in a mixture of 10 mL of acetone and 2 mL of aqueous 2N hydrochloric acid. The resultant mixture was heated at 60° C. for 16 hours and the crude boronic acid purified by reverse phase HPLC to give [6-(trifluoromethyl)-2-naphthyl]boronic acid as a white powder. 1H NMR (500 MHz, DMSO) δ: 8.47 (s, 1H); 8.38 (s, 1H); 8.33 (br s, 2H); 8.14 (d, J=8.7 Hz, 1H); 8.07 (d, J=8.2 Hz, 1H); 8.00 (d, J=8.2 Hz, 1H); 7.73 (dd, J=1.6, 8.5 Hz, 1H).

reactant | 2-Bromo-6-(trifluoromethyl)-naphthalene | 0.182 mmol, 50 mg | BrC1=CC2=CC=C(C=C2C=C1)C(F)(F)F | C11H6BrF3
reactant | bis(pinacolato)diboron | 0.362 mmol, 92 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.540 mmol, 53 mg | C(C)(=O)[O-].[K+]
solvent | methyl sulfoxide | 2.5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.0045 mmol, 3.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [6-(trifluoromethyl)-2-naphthyl]boronic acid | FC(C=1C=C2C=CC(=CC2=CC1)B(O)O)(F)F | C11H8BF3O2
